US07208527B2
To THF (80 ml) were added sequentially, a 1.0 M solution of TiCl4 in dichloromethane (80 ml), p,p′-difluorobenzophenone (8.73 g) and diethtyl malonate (6.4 g) in THF 20 ml. After stirring at 0° C. for 40 min, a solution of pyridine (12.8 ml) in THF (28 ml) was added dropwise. The ensuing mixture was stirred for 4 days. The reaction was quenched with water and diethyl ether. The aqueous phase was separated and extracted twice more with diethyl ether. The combined organic phases were washed with brine, sat. sodium bicarbonate solution and again with brine. Drying of the organic phase (MgSO4), filtration and concentration afforded a residue from which residual diethyl malonate was removed by Kugelrohr destillation. The residue was flash chromatographed to provide 1,1-di-p-fluorophenyl-2,2-di-ethoxycarbonylethylene (25%, m.p.=117–119° C.). To this product (5.9 g) were added ammonium chloride (1.31 g), KCN (2.18 g), DMF (175 ml) and water (22 ml) and the mixture was heated to 100° C. for 8 hrs. The cooled reaction mixture was poured into water and extracted (3×) with ethyl ether. The combined organic phases were washed with water, aq. 2N HCl, aq. 5% NaHCO3 and brine. Drying (Na2SO4), filtration and evaporation of volatiles gave a residue which was recrystallised from ether-hexane to afford the title compound (56%; M.p. 90–91° C.).

reactant | p,p′-difluorobenzophenone | 8.73 g | C1=CC(=CC=C1C(=O)C2=CC=C(C=C2)F)F | C13H8F2O
reactant | malonate | 6.4 g | C(CC(=O)[O-])(=O)[O-]
reactant | pyridine | 12.8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 28 ml | C1CCOC1 | C4H8O
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
